US07638629B2
b) (±)-Methyl(cis)-2-[4-(trifluoromethyl)phenyl]piperidine-4-carboxylate hydrochloride
Methyl 2-[4-(trifluoromethyl)phenyl]isonicotinate (5 g) was dissolved in MeOH (180 ml) and HCl in dioxane (4.5 ml, 4N). To this solution was added platinum oxide (500 mg) and the mixture was hydrogenated at 30 psi for 2 h. The mixture was filtered through Hyflo® to remove the catalyst and the solution was evaporated and azeotroped with toluene to yield the product as a white crystalline solid (5 g). 1H NMR (400 MHz, CDCl3) δ: 1.95-2.03 (1H, m), 2.09-2.17 (1H, m), 2.33 (1H, d, J 14.5), 2.44 (1H, d, J 14.2), 2.95-3.02 (1H, m), 3.35-3.39 (1H, m), 3.60-3.64 (1H, m), 3.75 (3H, s), 4.51 (1H, dd, J 2.7, 12.6), 7.74 (2H, d, J 8.2), 7.83 (2H, d, J 8.2); M/Z (ES+) 288 (MH+).

reactant | Methyl 2-[4-(trifluoromethyl)phenyl]isonicotinate | 5 g | FC(C1=CC=C(C=C1)C=1C=C(C(=O)OC)C=CN1)(F)F | C14H10F3NO2
reactant | HCl | Cl | ClH
solvent | MeOH | 180 ml | CO | CH4O
solvent | dioxane | 4N, 4.5 ml | O1CCOCC1 | C4H8O2
catalyst | platinum oxide | 500 mg | [Pt]=O
product | (±)-Methyl(cis)-2-[4-(trifluoromethyl)phenyl]piperidine-4-carboxylate hydrochloride | 5 g | Cl.FC(C1=CC=C(C=C1)[C@@H]1NCC[C@@H](C1)C(=O)OC)(F)F | InChI=1S/C14H16F3NO2.ClH/c1-20-13(19)10-6-7-18-12(8-10)9-2-4-11(5-3-9)14(15,16)17;/h2-5,10,12,18H,6-8H2,1H3;1H/t10-,12+;/m0./s1
